US04539329
Anhydrous potassium carbonate (10.7 g.) and 7-trifluoromethyl indoline-2,3-dione (14.4 g.) were stirred in N,N-dimethylformamide (DMF) (100 ml.) for 30 minutes. A portion (78.9 ml.) of a 25% w/v solution of 4-bromo-2-fluorobenzyl bromide in chlorobenzene was then added and the mixture was stirred at 75°-78° C. for 2 hours. The mixture was then cooled to ambient temperature and poured into water (400 ml.). Petrol 60-80 (200 ml.) was added to the aqueous mixture and the whole was stirred for 30 minutes. The solid which formed was separated by filtration to give 1-(4-bromo-2-fluorobenzyl)-7-trifluoromethyl indoline-2,3-dione (17.8 g.), m.p. 141°-143° C.

reactant | potassium carbonate | 10.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-trifluoromethyl indoline-2,3-dione | 14.4 g | FC(C=1C=CC=C2C(C(NC12)=O)=O)(F)F | C9H4F3NO2
reactant | 4-bromo-2-fluorobenzyl bromide | BrC1=CC(=C(CBr)C=C1)F | C7H5Br2F
reactant | water | 400 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(4-bromo-2-fluorobenzyl)-7-trifluoromethyl indoline-2,3-dione | 17.8 g | BrC1=CC(=C(CN2C(C(C3=CC=CC(=C23)C(F)(F)F)=O)=O)C=C1)F | C16H8BrF4NO2
